US07781426B2
To a solution of ethyl (trans-4-{[[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4-(trifluoromethyl)benzyl](ethyl)amino]methyl}cyclohexyl)acetate (51 mg, 0.0718 mmol) in EtOH (3 mL) and water (2 mL) was added 4 M KOH (500 μL). The mixture was stirred at room temperature for 30 minutes and then water (1 mL) and MeOH (100 μL) were added. After an additional hour, the reaction was quenched with 1 N HCl (5 mL), diluted with EtOAc (20 mL) and washed with brine (10 mL). The organic layer was dried over Na2SO4, filtered, and concentrated. Purification of the residue by PTLC (50% EtOAc/hexanes with 1% AcOH) was followed by azeotroping of the product with toluene to afford (trans-4-{[[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4-(trifluoromethyl)benzyl](ethyl)amino]methyl}cyclohexyl)acetic acid. Rf=0.13 (50% EtOAc/hexanes with 1% AcOH). LCMS=683.2 (M+1)+. 1H NMR (CDCl3, 500 MHz) δ 7.89 (s, 1H), 7.79 (s, 2H), 7.61-7.53 (m, 2H), 7.48 (s, 1H), 5.74 (d, J=7.8 Hz, 1H), 5.00 (d, J=16.4 Hz, 1H), 4.44 (d, J=16.2 Hz, 1H), 4.04-3.98 (m, 1H), 3.72-3.61 (m, 2H), 2.54-2.53 (m, 2H), 2.23-2.19 (m, 4H), 1.82-1.76 (m, 4H), 1.72-1.64 (m, 1H), 1.39-1.38 (m, 1H), 1.04 (t, J=6.8 Hz, 3H), 0.99-0.78 (m, 4H), 0.76 (d, J=6.8 Hz, 3H).

reactant | ethyl (trans-4-{[[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4-(trifluoromethyl)benzyl](ethyl)amino]methyl}cyclohexyl)acetate | 0.0718 mmol, 51 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(CN(CC)C[C@@H]2CC[C@H](CC2)CC(=O)OCC)C=CC(=C1)C(F)(F)F)C)(F)F | C34H39F9N2O4
reactant | KOH | 4 M, 500 μL | [OH-].[K+]
reactant | MeOH | 100 μL | CO | CH4O
solvent | EtOH | 3 mL | CCO | C2H6O
solvent | water | 2 mL | O | H2O
solvent | water | 1 mL | O | H2O
product | (trans-4-{[[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4-(trifluoromethyl)benzyl](ethyl)amino]methyl}cyclohexyl)acetic acid | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(CN(CC)C[C@@H]2CC[C@H](CC2)CC(=O)O)C=CC(=C1)C(F)(F)F)C)(F)F | C32H35F9N2O4
